US09108936B2
To a solution of 2-methoxy-6-methyl-4-morpholin-4-yl-benzonitrile (0.9 g, 3.88 mmol) in dimethylformamide (15 ml) are added potassium carbonate (2.1 g, 15.5 mmol) and ethanethiol (2.3 ml, 31.0 mmol) and the resulting mixture is heated at 90° C. for 16 h. The reaction mixture is poured onto cold water (50 ml), acidified with 2M hydrochloric acid to pH 3 and extracted with ethyl acetate (3×30 ml). The combined organic layers are washed with brine (30 ml), dried over sodium sulfate and evaporated to dryness. The crude product is purified by flash column chromatography (silica gel, 30% ethyl acetate/hexane) affording 2-hydroxy-6-methyl-4-morpholin-4-yl-benzonitrile (0.41 g, 1.88 mmol, 48%).

reactant | 2-methoxy-6-methyl-4-morpholin-4-yl-benzonitrile | 3.88 mmol, 0.9 g | COC1=C(C#N)C(=CC(=C1)N1CCOCC1)C | C13H16N2O2
reactant | potassium carbonate | 15.5 mmol, 2.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethanethiol | 31.0 mmol, 2.3 ml | C(C)S | C2H6S
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | 2-hydroxy-6-methyl-4-morpholin-4-yl-benzonitrile | 1.88 mmol, 0.41 g, 48% | OC1=C(C#N)C(=CC(=C1)N1CCOCC1)C | C12H14N2O2
